US07622471B2
1-(6-Methoxy-3-pyridyl)-5-(4-methylthio-2-pyridyl)pyrazole-3-carboxylic acid ethyl ester
The general procedure of Referential Example 3-2) was repeated through use of 4-(4-methylthio-2-pyridyl)-2,4-dioxobutanoic acid ethyl ester (1.62 g) and the 5-hydrazino-2-methoxypyridine (0.843 g) prepared in Referential Example 2, to thereby give the title compound as a solid (0.366 g, 16%).

reactant | 4-(4-methylthio-2-pyridyl)-2,4-dioxobutanoic acid ethyl ester | 1.62 g | C(C)OC(C(CC(=O)C1=NC=CC(=C1)SC)=O)=O | C12H13NO4S
reactant | 5-hydrazino-2-methoxypyridine | 0.843 g | N(N)C=1C=CC(=NC1)OC | C6H9N3O
product | 1-(6-Methoxy-3-pyridyl)-5-(4-methylthio-2-pyridyl)pyrazole-3-carboxylic acid ethyl ester | 0.366 g, 16% | C(C)OC(=O)C1=NN(C(=C1)C1=NC=CC(=C1)SC)C=1C=NC(=CC1)OC | C18H18N4O3S
